US06903120B2
3-Piperidin-4-yl-phenol
4-(3-Methoxy-phenyl)-piperidine (1.7 g) was dissolved in 48-% HBr (60 ml) and stirred at 120° C. under an Argon-atmosphere for 3 h. The excess of HBr was then evaporated and absolute ethanol added and evaporated. This procedure was repeated several times to yield dry crystals of 3-piperidin-4-yl-phenol×HBr (2.3 g). MS m/z (relative intensity, 70 eV) 177 (M+, bp), 176 (23), 91 (14), 57 (44), 56 (60).

reactant | 4-(3-Methoxy-phenyl)-piperidine | 1.7 g | COC=1C=C(C=CC1)C1CCNCC1 | C12H17NO
solvent | HBr | 60 ml | Br | BrH
product | 3-Piperidin-4-yl-phenol | N1CCC(CC1)C=1C=C(C=CC1)O | C11H15NO
